US04473580
To a solution of isopropyl benzimidate hydrochloride (18.0 g, 90 mmoles) in methylene chloride (100 ml) at 0° under an atmosphere of dry nitrogen is added a solution of triethylamine (28 ml, 200 mmoles) in a small stream with stirring. To this mixture is added a solution of 2,3-dihydro-2,2-dimethyl-7-benzofuranyl N-chlorothio(methyl)carbamate (26 g, 90 mmoles) in methylene chloride (80 ml) in a dropwise fashion. The reaction mixture is stirred for two hours at 0° and then washed in turn with water, 2N hydrochloric acid and saturated sodium bicarbonate. The organic phase is dried over anhydrous magnesium sulfate and the solvent is removed under reduced pressure. The residue is poured onto a column of silica gel. Elution of the column with a solvent consisting of 15 parts ether and 85 parts Skellysolve B gives from the appropriate fraction isopropyl N-[[methyl[[[2,3-dihydro-2,2-dimethyl-7-benzofuranyl]oxy]carbonyl]amino]thio]benzimidate as a yellow oil.

reactant | isopropyl benzimidate hydrochloride | 90 mmoles, 18.0 g | Cl.C(C1=CC=CC=C1)(OC(C)C)=N
reactant | triethylamine | 200 mmoles, 28 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydro-2,2-dimethyl-7-benzofuranyl N-chlorothio(methyl)carbamate | 90 mmoles, 26 g | ClSN(C(OC1=CC=CC=2CC(OC21)(C)C)=O)C | C12H14ClNO3S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | isopropyl N-[[methyl[[[2,3-dihydro-2,2-dimethyl-7-benzofuranyl]oxy]carbonyl]amino]thio]benzimidate | CN(SN=C(C1=CC=CC=C1)OC(C)C)C(=O)OC1=CC=CC=2CC(OC21)(C)C | C22H26N2O4S
